US08802659B2
(trans)-4-(2-methoxypropan-2-yl)cyclohexanol
To a solution of 2-((trans)-4-(2-methoxypropan-2-yl)cyclohexyloxy)tetrahydro-2H-pyran (1.2 g, 4.7 mmol) in MeOH (10 mL) was added p-TsOH (8.9 g, 4.7 mmol, 1.0 eq) slowly at rt. Then the mixture was stirred at rt for 2 h, and the solvent was removed in vacuo. The residue was purified on silica gel (EA/PE=1:3) to give the title compound as a colorless oil (660 mg, yield: 82%). 1H NMR (400 MHz, CDCl3) δ: 4.07-4.05 (m, 1H), 3.17 (s, 3H), 1.87-1.82 (m, 2H), 1.55-1.38 (m, 7H), 1.10 (s, 6H).

reactant | 2-((trans)-4-(2-methoxypropan-2-yl)cyclohexyloxy)tetrahydro-2H-pyran | 4.7 mmol, 1.2 g | COC(C)(C)[C@@H]1CC[C@H](CC1)OC1OCCCC1 | C15H28O3
reactant | p-TsOH | 4.7 mmol, 8.9 g, 1.0 eq | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | MeOH | 10 mL | CO | CH4O
product | (trans)-4-(2-methoxypropan-2-yl)cyclohexanol | 660 mg, yield: 82% | COC(C)(C)[C@@H]1CC[C@H](CC1)O | C10H20O2
